US07544697B2
2-Ethyl-7-methoxy-1-(2-phenylethyl)-2H-pyrazolo[3,4-c]quinolin-4-amine (0.37 g, 1.07 mmol) was added in one portion to boiling pyridinium chloride (3.70 g, 32.0 mmol). The mixture was heated at reflux for 4 hours, and then was allowed to cool to room temperature. The mixture was triturated with ice water and the precipitate was isolated by filtration, washed with water, and dried to yield 0.38 g of 4-amino-2-ethyl-1-(2-phenylethyl)-2H-pyrazolo[3,4-c]quinolin-7-ol hydrochloride as a light grey solid, mp>300° C.

reactant | 2-Ethyl-7-methoxy-1-(2-phenylethyl)-2H-pyrazolo[3,4-c]quinolin-4-amine | 1.07 mmol, 0.37 g | C(C)N1N=C2C(=NC=3C=C(C=CC3C2=C1CCC1=CC=CC=C1)OC)N | C21H22N4O
reactant | pyridinium chloride | 32.0 mmol, 3.70 g | [Cl-].[NH+]1=CC=CC=C1
product | 4-amino-2-ethyl-1-(2-phenylethyl)-2H-pyrazolo[3,4-c]quinolin-7-ol hydrochloride | 0.38 g | Cl.NC1=NC=2C=C(C=CC2C=2C1=NN(C2CCC2=CC=CC=C2)CC)O | InChI=1S/C20H20N4O.ClH/c1-2-24-17(11-8-13-6-4-3-5-7-13)18-15-10-9-14(25)12-16(15)22-20(21)19(18)23-24;/h3-7,9-10,12,25H,2,8,11H2,1H3,(H2,21,22);1H
